US06147098
b) N-Cyano-N'-(3,5-bis(trifluoromethyl)phenyl)-N"-(3-methylbutyl)guanidine
A solution of N-(3,5-bis(trifluoromethyl)phenyl)-N'-cyano-O-phenylisourea (1 mmol, 373 mg), 3-methylbutylamine (1.15 mmol,100 mg) and triethylamine (1.5 mmol, 150 mg) in acetonitrile (2 ml) was stirred for 24 h at 60° C. After concentration the residue was purified by column chromatography (heptane:ethyl acetate 1:1) to give the title compound (100 mg, 27%).

reactant | N-(3,5-bis(trifluoromethyl)phenyl)-N'-cyano-O-phenylisourea | 1 mmol, 373 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(OC1=CC=CC=C1)=NC#N)(F)F | C16H9F6N3O
reactant | 3-methylbutylamine | 1.15 mmol, 100 mg | CC(CCN)C | C5H13N
reactant | triethylamine | 1.5 mmol, 150 mg | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | N-Cyano-N'-(3,5-bis(trifluoromethyl)phenyl)-N"-(3-methylbutyl)guanidine | 100 mg, 27% | C(#N)NC(=NCCC(C)C)NC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C15H16F6N4
